US08003647B2
4-(3-Formyl-5-methylamino-6-trifluoromethylindol-1-yl)benzoic acid ethyl ester
To a solution of 4-(5-dimethylamino-6-trifluoromethylindol-1-yl)benzoic acid ethyl ester (0.054 g) in N,N-dimethylformamide (2 mL) was added phosphoryl chloride (0.026 g) under ice cooling, and this mixture was stirred at room temperature for 16 hours. To this mixture was added 2 mol/L aqueous sodium hydroxide solution (5 mL), and this resulting mixture was stirred at 50° C. for 30 minutes. After cooling to ambient temperature, 1 mol/L hydrochloric acid (10 mL) was added to this mixture, and the precipitated solid was collected by filtration. This solid was washed with water and n-hexane, dried under reduced pressure at 50° C. to give the title compound (0.026 g).

reactant | 4-(5-dimethylamino-6-trifluoromethylindol-1-yl)benzoic acid ethyl ester | 0.054 g | C(C)OC(C1=CC=C(C=C1)N1C=CC2=CC(=C(C=C12)C(F)(F)F)N(C)C)=O | C20H19F3N2O2
reactant | phosphoryl chloride | 0.026 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium hydroxide | 2 mol/L, 5 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 mol/L, 10 mL | Cl | ClH
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 4-(3-Formyl-5-methylamino-6-trifluoromethylindol-1-yl)benzoic acid ethyl ester | 0.026 g | C(C)OC(C1=CC=C(C=C1)N1C=C(C2=CC(=C(C=C12)C(F)(F)F)NC)C=O)=O | C20H17F3N2O3
